US07678795B2
(1SR,8RS)-5-Cyclopropyl-6-methyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
off-white crystalline solid. MS (EI): 200.2 (M+). Prepared from bicyclo[2.2.1]heptane-2,3-dione, (2-Cyclopropyl-1-methyl-2-oxo-ethyl)-phosphonic acid diethyl ester, hydrazine monohydrate.

reactant | bicyclo[2.2.1]heptane-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | (2-Cyclopropyl-1-methyl-2-oxo-ethyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C(C(=O)C1CC1)C | C10H19O4P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-Cyclopropyl-6-methyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C1(CC1)C1=NN=C2C3CCC(C2=C1C)C3 | C13H16N2
